2194-12-23 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2194-12-22**] 08:00 PM
 MULTI LUMEN - START [**2194-12-22**] 08:44 PM
 ARTERIAL LINE - START [**2194-12-22**] 11:27 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-22**] 09:04 PM
   Vancomycin - [**2194-12-22**] 09:35 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 65 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-12-22**] 09:06 PM
   Fentanyl - [**2194-12-23**] 04:56 AM
   Midazolam (Versed) - [**2194-12-23**] 04:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 87 (81 - 98) bpm
   BP: 100/52(64) {90/48(58) - 106/61(71)} mmHg
   RR: 21 (12 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.9 kg (admission): 152.9 kg
             Total In:
                                                                  2,336 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                  2,306 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    370 mL
   Urine:
                                                                    530 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 25 cmH2O
   Compliance: 54.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/45/137/27/2
   Ve: 10.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   204 K/uL
   11.9 g/dL
   177 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   17 mg/dL
   107 mEq/L
   140 mEq/L
   36.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2194-12-22**]  06:52 PM
                             [**2194-12-23**]  12:00 AM
                             [**2194-12-23**]  03:07 AM
                             [**2194-12-23**]  03:25 AM
   WBC
   13.6
   Hct
   36.9
   Plt
   204
   Cr
   0.7
   TropT
   0.05
   TCO2
   31
   27
   29
   Glucose
   177
   Other labs: CK / CKMB / Troponin-T:50//0.05, ALT / AST:44/29, Alk Phos
   / T Bili:67/0.4, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Assessment and Plan
   37 yo F with PMH of recurrent bronchitis admitted from OSH with hypoxic
   and hypercarbic respiratory failure and CXR highly concerning for ARDS.
   # Hypoxic and hypercarbic respiratory failure:  CXR, low P/F ratio and
   lack of evidence of CHF make this picture highly suspicious for ARDS -
   highest on the ddx is influenza given history of myalgias, fever and
   fatigue for 3 days prior to presentation.
   - will ventilate with ARDSnet protocol 6mg/kg IBW - 370 Vt, she's
   current requiring high PEEP, though has had improving oxygenation so
   able to wean down FiO2 to 80% currently
   - will continue to wean vent as tolerated, trend gases, consider
   esophageal balloon in am to evaluated PEEP requirement
   - r/o for flu, treat with oseltamivir empirically
   - given how acutely ill, will treat with broad spec abx - vanc/zosyn
   and narrow
   - f/u blood cultures, urine culture (UA dirty)
   - trend fever curve and white count
   - echo in am to better asses cardiac function
   # Hypotension:  SBP's in 90's, fluid responsive, total of 3L so far,
   with appropriate bump to 100's.  Likely sepsis [**12-23**] flu as above with
   fevers at home, leukocytosis, left shift.
   - maintain UOP>30 cc/hr, MAP>65
   - IVF boluses as needed
   - no pressors for now, but low threshold for levophed if above goals
   not met
   - f/u cultures as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-12-22**] 08:08 PM
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-22**] 11:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-12-24 07:26:00 Physician Resident Progress Note
Chief Complaint: Bronch at noon today - pending gram stain/cultures and
   rapid viral screen on samples
   - Influenza A/B negative so droplet precautions d/c'd; RSV swab sent
   - Low blood pressures, multiple fluid boluses (~5) with decreasing
   urine output, requiring increased pressors
   - Febrile, pan cultured
   24 Hour Events:
 BRONCHOSCOPY - At [**2194-12-23**] 02:35 PM
 ARTERIAL LINE - STOP [**2194-12-23**] 03:35 PM
 ARTERIAL LINE - START [**2194-12-23**] 03:45 PM
 FEVER - 102.8
F - [**2194-12-23**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-23**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-24**] 12:45 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-12-23**] 10:17 AM
   Fentanyl - [**2194-12-23**] 11:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.4
C (101.2
   HR: 73 (66 - 89) bpm
   BP: 103/52(68) {75/46(60) - 114/78(90)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.9 kg (admission): 152.9 kg
    CVP: 14 (14 - 15)mmHg
   Total In:
                                                                  6,882 mL
                                                                    600 mL
   PO:
   TF:
                                                                     26 mL
                                                                    144 mL
   IVF:
                                                                  6,756 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    410 mL
   Urine:
                                                                  1,115 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,767 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.37/47/92.[**Numeric Identifier 132**]/25/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   202 K/uL
   10.2 g/dL
   186 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   142 mEq/L
   31.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2194-12-23**]  12:00 AM
                             [**2194-12-23**]  03:07 AM
                             [**2194-12-23**]  03:25 AM
                             [**2194-12-23**]  09:24 AM
                             [**2194-12-23**]  11:35 AM
                             [**2194-12-23**]  03:17 PM
                             [**2194-12-23**]  06:04 PM
                             [**2194-12-23**]  06:15 PM
                             [**2194-12-24**]  04:28 AM
                             [**2194-12-24**]  04:50 AM
   WBC
   13.6
   10.0
   Hct
   36.9
   31.8
   Plt
   204
   202
   Cr
   0.7
   0.7
   0.7
   TropT
   0.05
   TCO2
   27
   29
   34
   29
   30
   26
   28
   Glucose
   177
   128
   186
   Other labs: PT / PTT / INR:12.3/24.6/1.0, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:44/29, Alk Phos / T Bili:67/0.4, Lactic
   Acid:1.3 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   37 yo F with PMH of recurrent bronchitis admitted from OSH with hypoxic
   and hypercarbic respiratory failure and CXR highly concerning for ARDS.
   # Hypoxic and hypercarbic respiratory failure:  CXR, low P/F ratio and
   lack of evidence of CHF make this picture highly suspicious for ARDS -
   highest on the ddx is a viral processes given of myalgias, fever and
   fatigue for 3 days prior to presentation.  Influenza DFA was negative.
   - Will ventilate with ARDSnet protocol 6mg/kg IBW - 370 Vt, she's
   requiring high PEEP, though has had improving oxygenation so able to
   wean down FiO2 to 60% currently. Will hold constant today on PEEP
   trying to get down to FIO2 down to 40% before reducing PEEP
   - Follow-up on Rapid Viral Screen, blood and urine cultures
   - Follow-up Bronch Rapid Viral Screen, sputum samples
   - Given presentation, and relatively low suspicion for bacterial
   etiology, will pull back on antibiotic coverage. Discontinue Vanc/Zosyn
   and start Levofloxacin
   - Given low suspicion for Cardiac etiology, holding on ECHO to assess
   cardiac function
   # Hypotension:  SBP's in 90's, fluid responsive.  Likely sepsis [**12-23**]
   viral infection as above with high fevers at home and in-house,
   leukocytosis (improved), left shift.  UOP 50-80 ccs/hr.
   - maintain UOP>30 cc/hr, MAP>65
   - IVF boluses as needed
   - Levophed for MAP>65 as needed
   - F/u cultures as above
   ICU Care
   Nutrition: Tube feeds -  Nutrition consult today
   Glycemic Control:
   Lines:
   18 Gauge - [**2194-12-22**] 08:08 PM
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-22**] 11:27 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-24 07:29:00 Physician Resident Progress Note
Chief Complaint: - Went down to IR for embolization, became
   hypotensive, hypoxic, acidotic, started on pressors in IR suite. No
   culprit arterial bleed identified. Brought back to floor on pressors.
   O2 sats improved but persistently acidotic with elevated lactate and
   WBC 23.
   - Per attending, CPR not indicated
   - Spiked temp overnight. Blood/urine cultures sent
   - Weaned off pressors overnight. Tachycardic to 115 -> 500 cc NS bolus
   24 Hour Events:
 BRONCHOSCOPY - At [**2194-12-23**] 02:35 PM
 ARTERIAL LINE - STOP [**2194-12-23**] 03:35 PM
 ARTERIAL LINE - START [**2194-12-23**] 03:45 PM
 FEVER - 102.8
F - [**2194-12-23**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-23**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-24**] 12:45 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-12-23**] 10:17 AM
   Fentanyl - [**2194-12-23**] 11:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.4
C (101.2
   HR: 73 (66 - 89) bpm
   BP: 103/52(68) {75/46(60) - 114/78(90)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.9 kg (admission): 152.9 kg
    CVP: 14 (14 - 15)mmHg
   Total In:
                                                                  6,882 mL
                                                                    603 mL
   PO:
   TF:
                                                                     26 mL
                                                                    145 mL
   IVF:
                                                                  6,756 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    410 mL
   Urine:
                                                                  1,115 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,767 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.37/47/92.[**Numeric Identifier 132**]/25/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   10.2 g/dL
   186 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   142 mEq/L
   31.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2194-12-23**]  12:00 AM
                             [**2194-12-23**]  03:07 AM
                             [**2194-12-23**]  03:25 AM
                             [**2194-12-23**]  09:24 AM
                             [**2194-12-23**]  11:35 AM
                             [**2194-12-23**]  03:17 PM
                             [**2194-12-23**]  06:04 PM
                             [**2194-12-23**]  06:15 PM
                             [**2194-12-24**]  04:28 AM
                             [**2194-12-24**]  04:50 AM
   WBC
   13.6
   10.0
   Hct
   36.9
   31.8
   Plt
   204
   202
   Cr
   0.7
   0.7
   0.7
   TropT
   0.05
   TCO2
   27
   29
   34
   29
   30
   26
   28
   Glucose
   177
   128
   186
   Other labs: PT / PTT / INR:12.3/24.6/1.0, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:44/29, Alk Phos / T Bili:67/0.4, Lactic
   Acid:1.3 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-23**] 09:24 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-23**] 03:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-12-25 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fevers unrelieved by Tylenol, had cold baths
   - Added abd labs to look for pancreatitis
   - Changed to levoflox, d/c'ed vanc zosyn as no clear infiltrate
   - Rapid viral screen and bronch negative
   - Tried to wean levophed but restarted for MAP ~55 after just one hour
   off. Net positive 6L so minimizing boluses
   - Able to decrease FiO2 to 40% so PEEP 18 --> 16. Can
t tolerate 14
   yet.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-23**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-24**] 08:00 AM
   Levofloxacin - [**2194-12-24**] 10:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-25**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.6
   HR: 64 (63 - 85) bpm
   BP: 98/58(73) {81/47(60) - 116/68(86)} mmHg
   RR: 23 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.9 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  3,163 mL
                                                                    663 mL
   PO:
   TF:
                                                                    654 mL
                                                                    300 mL
   IVF:
                                                                  2,239 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    340 mL
   Urine:
                                                                  1,180 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,983 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.40/50/70/26/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   9.8 g/dL
   150 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   12 mg/dL
   109 mEq/L
   141 mEq/L
   29.9 %
   7.6 K/uL
        [image002.jpg]
                             [**2194-12-23**]  11:35 AM
                             [**2194-12-23**]  03:17 PM
                             [**2194-12-23**]  06:04 PM
                             [**2194-12-23**]  06:15 PM
                             [**2194-12-24**]  04:28 AM
                             [**2194-12-24**]  04:50 AM
                             [**2194-12-24**]  01:25 PM
                             [**2194-12-24**]  04:53 PM
                             [**2194-12-24**]  06:39 PM
                             [**2194-12-25**]  03:18 AM
   WBC
   10.0
   7.6
   Hct
   31.8
   29.9
   Plt
   202
   182
   Cr
   0.7
   0.7
   0.7
   TCO2
   29
   30
   26
   28
   28
   30
   31
   32
   Glucose
   128
   186
   150
   Other labs: PT / PTT / INR:13.5/24.3/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:43/32, Alk Phos / T Bili:57/0.5, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   37 yo F with PMH of recurrent bronchitis admitted from OSH with hypoxic
   and hypercarbic respiratory failure and CXR highly concerning for ARDS.
   # Hypoxic and hypercarbic respiratory failure:  CXR, low P/F ratio and
   lack of evidence of CHF make this picture highly suspicious for ARDS -
   highest on the ddx is a viral processes given of myalgias, fever and
   fatigue for 3 days prior to presentation.  Influenza DFA was negative.
   - Will ventilate with ARDSnet protocol 6mg/kg IBW - 370 Vt, she's
   requiring high PEEP, though has had improving oxygenation so able to
   wean down FiO2 to 60% currently. Will hold constant today on PEEP
   trying to get down to FIO2 down to 40% before reducing PEEP
   - Follow-up on Rapid Viral Screen, blood and urine cultures
   - Follow-up Bronch Rapid Viral Screen, sputum samples
   - Given presentation, and relatively low suspicion for bacterial
   etiology, will pull back on antibiotic coverage. Discontinue Vanc/Zosyn
   and start Levofloxacin
   - Given low suspicion for Cardiac etiology, holding on ECHO to assess
   cardiac function
   # Hypotension:  SBP's in 90's, fluid responsive.  Likely sepsis [**12-23**]
   viral infection as above with high fevers at home and in-house,
   leukocytosis (improved), left shift.  UOP 50-80 ccs/hr.
   - maintain UOP>30 cc/hr, MAP>65
   - IVF boluses as needed
   - Levophed for MAP>65 as needed
   - F/u cultures as above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-23**] 03:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-12-26 05:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continues to spike fevers to 101.8, WBC crept up
   - Weaned to PEEP 14, yesterday then 12. This AM ([**12-26**]) dialed down to
   PEEP 10. Latest gas: 7.41/46/88
   - Still requiring some pressor support
   - Rash across upper lip noted where ET tube tape applied, looks
   allergic. Hydrocortisone 1% cream ordered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-23**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-24**] 08:00 AM
   Levofloxacin - [**2194-12-25**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-12-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-26**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (101
   HR: 79 (62 - 86) bpm
   BP: 92/57(72) {88/49(63) - 110/83(109)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.9 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 11 (11 - 15)mmHg
   Total In:
                                                                  2,468 mL
                                                                    421 mL
   PO:
   TF:
                                                                  1,291 mL
                                                                    315 mL
   IVF:
                                                                    766 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,122 mL
                                                                    310 mL
   Urine:
                                                                  1,122 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,346 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 54.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/46/113/28/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   10.3 g/dL
   175 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   31.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2194-12-24**]  04:28 AM
                             [**2194-12-24**]  04:50 AM
                             [**2194-12-24**]  01:25 PM
                             [**2194-12-24**]  04:53 PM
                             [**2194-12-24**]  06:39 PM
                             [**2194-12-25**]  03:18 AM
                             [**2194-12-25**]  11:08 AM
                             [**2194-12-25**]  12:41 PM
                             [**2194-12-26**]  03:27 AM
                             [**2194-12-26**]  03:33 AM
   WBC
   10.0
   7.6
   11.2
   Hct
   31.8
   29.9
   31.2
   Plt
   [**Telephone/Fax (3) 13068**]
   Cr
   0.7
   0.7
   0.6
   TCO2
   28
   28
   30
   31
   32
   30
   30
   32
   Glucose
   186
   150
   175
   Other labs: PT / PTT / INR:13.9/24.6/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:36/26, Alk Phos / T Bili:53/0.4, Amylase
   / Lipase:40/31, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   37F PMH p/w hypoxic hypercarbic respiratory failure after 3-day
   prodrome of fevers and myalgias, CXR c/w ARDS.
   # Hypoxic and hypercarbic respiratory failure: Steadily improving,
   continues to look like viral ARDS. Concerning however that she
   continues to mount a fever and a white count. Does not look like
   superinfection. Clear CXR.
   - At PEEP of 10 at FiO2 40%.
   - Wean as tolerated to 8.
   - At 8, calculate [**Last Name (un) 13074**], consider extubation
   - Levofloxacin only now, note rising white count, continued fever.
   - Reculture, blood, sputum, get U/A
   - Alb/Atrovent nebs prn
    # Hypotension:  Likely sepsis [**12-23**] viral infection.
   - maintain UOP>30 cc/hr, MAP>65
   - IVF boluses as needed
   - Levophed for MAP>65
   # Facial rash: Rash across skin just above mouth, where tape securing
   ET tube has been. Tape removed, standard ET tube secure device applied.
   - Hydrocortisone 1% cream ordered
   ICU Care
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   50 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM, Arterial Line - [**2194-12-23**]
   03:45 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, adding Bisacodyl today
   Comments: On special bed for rolling patient
   Communication:  Comments:
   Code status: Full
   Disposition: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-25**] 09:38 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-23**] 03:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2194-12-27 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2194-12-26**] 12:00 PM
 ARTERIAL LINE - STOP [**2194-12-26**] 09:58 PM
 ARTERIAL LINE - START [**2194-12-26**] 10:15 PM
 FEVER - 101.1
F - [**2194-12-26**] 08:00 PM
   [**12-26**]:
   - Eosinophila noted on CBC, which is new since admission. Given rash
   over lip noted the day prior where ET tube tape applied, may indicate
   allergic reaction (Levaquin?). Re-checking diff with tomorrow's AM labs
   - Sedation changed from gtt to boluses, then back to gtt when sedation
   inadequate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-24**] 08:00 AM
   Levofloxacin - [**2194-12-25**] 10:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-12-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-12-26**] 08:00 AM
   Fentanyl - [**2194-12-26**] 08:35 PM
   Midazolam (Versed) - [**2194-12-27**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-27**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.7
C (99.9
   HR: 74 (61 - 86) bpm
   BP: 90/48(62) {62/47(57) - 126/116(337)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 12 (9 - 12)mmHg
   Total In:
                                                                  2,134 mL
                                                                    649 mL
   PO:
   TF:
                                                                  1,454 mL
                                                                    422 mL
   IVF:
                                                                    450 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    325 mL
   Urine:
                                                                  1,565 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    569 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.40/52/102/30/5
   Ve: 10 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   10.1 g/dL
   152 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   31.0 %
   10.6 K/uL
         [image002.jpg]
   Eos: 4.5
 3.8
   Blood cultures: NGTD
   Urine cultures: NGTD
   Sputum: Mixed flora
                             [**2194-12-24**]  06:39 PM
                             [**2194-12-25**]  03:18 AM
                             [**2194-12-25**]  11:08 AM
                             [**2194-12-25**]  12:41 PM
                             [**2194-12-26**]  03:27 AM
                             [**2194-12-26**]  03:33 AM
                             [**2194-12-26**]  05:33 AM
                             [**2194-12-26**]  03:28 PM
                             [**2194-12-27**]  03:38 AM
                             [**2194-12-27**]  04:13 AM
   WBC
   7.6
   11.2
   10.6
   Hct
   29.9
   31.2
   31.0
   Plt
   182
   210
   195
   Cr
   0.7
   0.6
   0.6
   TCO2
   31
   32
   30
   30
   32
   30
   33
   33
   Glucose
   150
   175
   152
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:36/26, Alk Phos / T Bili:53/0.4, Amylase
   / Lipase:40/31, Differential-Neuts:77.8 %, Lymph:14.6 %, Mono:3.7 %,
   Eos:3.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   37F PMH p/w hypoxic hypercarbic respiratory failure after 3-day
   prodrome of fevers and myalgias, CXR c/w ARDS.
   # Hypoxic and hypercarbic respiratory failure: Steadily improving,
   continues to look like viral ARDS. Concerning however that she
   continues to mount a fever and a white count, although improving. Does
   not look like superinfection. Clear CXR.
   - At PEEP of 10 at FiO2 50%
 will attempt to wean to PEEP of 8 (if
   tolerated) and FiO2 40%
   - Levofloxacin only now
 if continued fever and concerns of
   evolving/undertreated healthcare acquired PNA, will broaden to
   Vanc/3^rd gen cephalosporin
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn
    # Hypotension:  Likely sepsis [**12-23**] viral vs bacterial infection.
   Currently off levophed.
   - Maintain UOP>30 cc/hr, MAP>65
   - Given grossly positive this hospitalization, will attempt diuresis
   this afternoon with Lasix and give Levophed boluses as needed
   - Minimize IVF boluses for now
   # Facial rash: Rash across skin just above mouth, where tape securing
   ET tube has been. Tape removed, standard ET tube secure device applied.
   - Hydrocortisone 1% cream ordered
   ICU Care
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM, Arterial Line - [**2194-12-23**]
   03:45 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, adding Bisacodyl today
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-26**] 08:41 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-26**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-27 08:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Rash and eosinophilia
   Febrile yesterday
   Briefly on pressors this AM
   24 Hour Events:
 PAN CULTURE - At [**2194-12-26**] 12:00 PM
 ARTERIAL LINE - STOP [**2194-12-26**] 09:58 PM
 ARTERIAL LINE - START [**2194-12-26**] 10:15 PM
 FEVER - 101.1
F - [**2194-12-26**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-12-25**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-12-27**] 12:25 AM
   Pantoprazole (Protonix) - [**2194-12-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-12-27**] 08:00 AM
   Fentanyl - [**2194-12-27**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-27**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 77 (61 - 86) bpm
   BP: 97/49(64) {62/44(57) - 126/116(337)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153 kg (admission): 152.9 kg
   Height: 67 Inch
   CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  2,137 mL
                                                                    834 mL
   PO:
   TF:
                                                                  1,456 mL
                                                                    515 mL
   IVF:
                                                                    450 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    435 mL
   Urine:
                                                                  1,565 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    572 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 46.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/52/102/30/5
   Ve: 10.1 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Intubated, sedated, obese
   Neck RIJ in place
   Hrt rrr
   Lungs decreased though clear
   Abd soft
   Extreme no edema
   Labs / Radiology
   10.1 g/dL
   195 K/uL
   152 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   31.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2194-12-24**]  06:39 PM
                             [**2194-12-25**]  03:18 AM
                             [**2194-12-25**]  11:08 AM
                             [**2194-12-25**]  12:41 PM
                             [**2194-12-26**]  03:27 AM
                             [**2194-12-26**]  03:33 AM
                             [**2194-12-26**]  05:33 AM
                             [**2194-12-26**]  03:28 PM
                             [**2194-12-27**]  03:38 AM
                             [**2194-12-27**]  04:13 AM
   WBC
   7.6
   11.2
   10.6
   Hct
   29.9
   31.2
   31.0
   Plt
   182
   210
   195
   Cr
   0.7
   0.6
   0.6
   TCO2
   31
   32
   30
   30
   32
   30
   33
   33
   Glucose
   150
   175
   152
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:36/26, Alk Phos / T Bili:53/0.4, Amylase
   / Lipase:40/31, Differential-Neuts:77.8 %, Lymph:14.6 %, Mono:3.7 %,
   Eos:3.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION  - follow, off of pressors for now
 HYPERGLYCEMIA - insulin
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**]) /
   pneumonia / resp failure
 suspect bacterial cause, viral less likely,
   eosinophiic pneumonia a consideration, will re-bronch if improvement
   [**Last Name (LF) 13097**], [**First Name3 (LF) **] try gentle diuresis
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-27**] 08:13 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-26**] 10:15 PM
   Prophylaxis:
   DVT:  sc hep, boots
   Stress ulcer:    PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent:   40

2194-12-28 07:14:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   [**12-27**]:
   - PEEP 8 and FiO2 40% yesterday but pt unable to tolerate --> back to
   PEEP 10, FiO2 50 --> 40%. Given body habitus, may require PEEP 10
   - +12L length of stay but no Lasix given low BPs on Fentanyl/Versed,r
   equiring resumption of Levophed. UOP okay
   - Consider repeat Bronch w/ cell count (for eosinophilic PNA)
   - RN noting significant clear/whitish nasal secretions
   .
   [**12-28**]:
   - WBC bumped again, eos on diff again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-12-27**] 09:53 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-12-27**] 08:00 AM
   Midazolam (Versed) - [**2194-12-27**] 07:30 PM
   Fentanyl - [**2194-12-27**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2194-12-27**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 73 (66 - 82) bpm
   BP: 92/49(64) {80/41(60) - 112/72(80)} mmHg
   RR: 23 (17 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 10 (7 - 10)mmHg
   Total In:
                                                                  2,222 mL
                                                                    573 mL
   PO:
   TF:
                                                                  1,446 mL
                                                                    432 mL
   IVF:
                                                                    572 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    707 mL
   Urine:
                                                                  1,115 mL
                                                                    707 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 53.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/51/102/28/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   10.0 g/dL
   195 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   14 mg/dL
   102 mEq/L
   136 mEq/L
   31.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2194-12-26**]  03:33 AM
                             [**2194-12-26**]  05:33 AM
                             [**2194-12-26**]  03:28 PM
                             [**2194-12-27**]  03:38 AM
                             [**2194-12-27**]  04:13 AM
                             [**2194-12-27**]  12:37 PM
                             [**2194-12-27**]  12:56 PM
                             [**2194-12-27**]  05:51 PM
                             [**2194-12-28**]  02:45 AM
                             [**2194-12-28**]  02:54 AM
   WBC
   10.6
   13.5
   Hct
   31.0
   31.4
   Plt
   195
   237
   Cr
   0.6
   0.6
   TCO2
   32
   30
   33
   33
   33
   32
   32
   33
   Glucose
   152
   195
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:36/26, Alk Phos / T Bili:53/0.4, Amylase
   / Lipase:40/31, Differential-Neuts:79.1 %, Lymph:13.1 %, Mono:3.5 %,
   Eos:4.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37F PMH p/w hypoxic hypercarbic respiratory failure after 3-day
   prodrome of fevers and myalgias, CXR c/w ARDS.
   # Hypoxic and hypercarbic respiratory failure: Steadily improving,
   continues to look like viral ARDS. Concerning however that she
   continues to mount a fever and a white count, although improving. Does
   not look like superinfection. Clear CXR.
   - At PEEP of 10 at FiO2 50%
 will attempt to wean to PEEP of 8 (if
   tolerated) and FiO2 40%
   - Levofloxacin only now
 if continued fever and concerns of
   evolving/undertreated healthcare acquired PNA, will broaden to Vanc/3rd
   gen cephalosporin
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn
    # Hypotension:  Likely sepsis [**12-23**] viral vs bacterial infection.
   Currently off levophed.
   - Maintain UOP>30 cc/hr, MAP>65
   - Given grossly positive this hospitalization, will attempt diuresis
   this afternoon with Lasix and give Levophed boluses as needed
   - Minimize IVF boluses for now
   # Facial rash: Rash across skin just above mouth, where tape securing
   ET tube has been. Tape removed, standard ET tube secure device applied.
   - Hydrocortisone 1% cream ordered
   ICU Care
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM, Arterial Line - [**2194-12-23**]
   03:45 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-27**] 07:52 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-26**] 10:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-28 08:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PEEP and FiO2 increased
   Continues to have low-grade fevers
   Back on pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-12-27**] 09:53 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2194-12-27**] 10:06 PM
   Midazolam (Versed) - [**2194-12-28**] 07:29 AM
   Fentanyl - [**2194-12-28**] 07:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-28**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 75 (66 - 82) bpm
   BP: 81/47(58) {80/41(58) - 112/72(80)} mmHg
   RR: 22 (17 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 153 kg (admission): 152.9 kg
   Height: 67 Inch
   CVP: 10 (7 - 10)mmHg
   Total In:
                                                                  2,225 mL
                                                                    660 mL
   PO:
   TF:
                                                                  1,448 mL
                                                                    500 mL
   IVF:
                                                                    572 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    827 mL
   Urine:
                                                                  1,115 mL
                                                                    827 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,110 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 91%
   ABG: 7.40/51/102/28/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Intubated, sedated, obese
   Neck  RIJ CVL
   Lung   decreased BSs
   Hrt   rrr
   Abd   soft, benign
   Extreme trace edema
   Labs / Radiology
   10.0 g/dL
   237 K/uL
   195 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   14 mg/dL
   102 mEq/L
   136 mEq/L
   31.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2194-12-26**]  03:33 AM
                             [**2194-12-26**]  05:33 AM
                             [**2194-12-26**]  03:28 PM
                             [**2194-12-27**]  03:38 AM
                             [**2194-12-27**]  04:13 AM
                             [**2194-12-27**]  12:37 PM
                             [**2194-12-27**]  12:56 PM
                             [**2194-12-27**]  05:51 PM
                             [**2194-12-28**]  02:45 AM
                             [**2194-12-28**]  02:54 AM
   WBC
   10.6
   13.5
   Hct
   31.0
   31.4
   Plt
   195
   237
   Cr
   0.6
   0.6
   TCO2
   32
   30
   33
   33
   33
   32
   32
   33
   Glucose
   152
   195
   Other labs: PT / PTT / INR:13.5/25.3/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:36/26, Alk Phos / T Bili:53/0.4, Amylase
   / Lipase:40/31, Differential-Neuts:79.1 %, Lymph:13.1 %, Mono:3.5 %,
   Eos:4.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   CXR low lung volumes, stable infiltrates, left effusion
   Assessment and Plan
 HYPERGLYCEMIA - insulin
 ACUTE RESPIRATORY DISTRESS SYNDROME / pneumonia / resp failure
   bacterial versus viral cause, eosinophiic pneumonia a consideration,
   will re-bronch because of stalled improvement and persistent fevers
   Hypotension
 IVF as needed, cont pressors ad wean as tolerated
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-28**] 07:25 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-26**] 10:15 PM
   Prophylaxis:
   DVT:   sc hep
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:    41

2194-12-29 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - WBC bumped again, eos on diff again
   - Bronch lavage shows polys, lymphs, 10% eos
   - added on am cortisol given persistent hypotension - was 3, started
   solumedrol 125mg x1 and then 60mg q8 in am
   - sputum gram stain, cx, p
   - needs optho c/s in am
   - head CT: sinusitis. Started Zosyn 4.5 gm q8
   - CT of chest: B/l effusions, bibasilar consolidations. Ground glass
   attenuation, could be c/w movement
   - TF held at 0200 for increased OG residuals, then restarted at 1/2
   strength
   - started latuns 4un qam and switched to regular insulin given tube
   feeds
   - Blood culture Gram stain: GPC clusters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-12-28**] 11:02 PM
   Piperacillin - [**2194-12-29**] 04:17 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-12-28**] 07:29 AM
   Fentanyl - [**2194-12-28**] 07:29 AM
   Pantoprazole (Protonix) - [**2194-12-28**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2194-12-29**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-29**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 76 (62 - 78) bpm
   BP: 106/53(71) {70/47(60) - 130/85(101)} mmHg
   RR: 23 (19 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 9 (-1 - 11)mmHg
   Total In:
                                                                  2,124 mL
                                                                    433 mL
   PO:
   TF:
                                                                  1,301 mL
                                                                    215 mL
   IVF:
                                                                    652 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,877 mL
                                                                    860 mL
   Urine:
                                                                  1,877 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.43/45/98.[**Numeric Identifier 176**]/33/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash: Mild erythema upper lip
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   286 K/uL
   10.2 g/dL
   222 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.5 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   31.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2194-12-26**]  03:28 PM
                             [**2194-12-27**]  03:38 AM
                             [**2194-12-27**]  04:13 AM
                             [**2194-12-27**]  12:37 PM
                             [**2194-12-27**]  12:56 PM
                             [**2194-12-27**]  05:51 PM
                             [**2194-12-28**]  02:45 AM
                             [**2194-12-28**]  02:54 AM
                             [**2194-12-28**]  09:18 PM
                             [**2194-12-29**]  01:49 AM
   WBC
   10.6
   13.5
   12.0
   Hct
   31.0
   31.4
   31.5
   Plt
   195
   237
   286
   Cr
   0.6
   0.6
   0.7
   TCO2
   33
   33
   33
   32
   32
   33
   31
   Glucose
   152
   195
   199
   222
   Other labs: PT / PTT / INR:12.9/23.6/1.1, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:26/16, Alk Phos / T Bili:56/0.5, Amylase
   / Lipase:40/31, Differential-Neuts:79.1 %, Lymph:13.1 %, Mono:3.5 %,
   Eos:4.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:204 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: [**12-28**] CTA (Prelim read): Bilateral pleural effusions and
   bibasilar consolidations L>R, could reflect atelectasis, superimposed
   infection can not be excluded. There is mild bilateral faint
   groundglass atenuation and peribronchovascular nodularity,
   particularly LUL, could represent an atypical infectious or
   inflammatory
   process. Contrast in the collecting system is likely from CTA performed
   earlier today. ([**First Name8 (NamePattern2) 13127**] [**Doctor Last Name 13128**] [**Numeric Identifier 13129**])
   Microbiology: [**12-28**] BCx:    Blood Culture, Routine (Preliminary):  GRAM
   POSITIVE COCCUS(COCCI) IN CLUSTERS.
      Aerobic Bottle Gram Stain (Final [**2194-12-29**]): GRAM POSITIVE COCCI IN
   CLUSTERS.
   [**12-28**] BAL: 1+ PMNs, no microorganisms
   Assessment and Plan
   37F w/ hypoxic hypercarbic respiratory failure after 3-day prodrome of
   fevers and myalgias, CXRs c/w ARDS. Now with gram positive bacteremia
   # Respiratory failure: Continues to require high PEEP, with O2 sats in
   low 90s. CT revealing pleural effusions and bibasilar consolidation.
   Bronch revealing 1+ PMNs but no bacteria.
   - F/u BAL cultures/cytology
   - Treating for PNA with levaquin/zosyn
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn
   # Bacteremia: GPC in clusters, species pending. Likely explanation for
   ongoing fevers.
   - Change CVL today
   - Vanco
   - If MRSA bacteremia, will consult ID
    # Hypotension:  Likely sepsis and adrenal insufficiency, given low
   cortisol. On steroids and ABx. Off pressors as of this morning.
   - TID steroids
   - ABx as above
   - Maintain UOP>30 cc/hr, MAP>65
   - Minimize IVF boluses if possible
   - No requirement for diuresis yet
   # Facial rash: Rash across skin just above mouth, resolving
   - Hydrocortisone 1% cream ordered
   # Sinusitis: On CT
   - Afrin, nasal steroids
   # Conjunctival hemorrhage: ophtho consult
   - consider d/c
ing subcutaneous heparin if worsens
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM, Arterial Line - [**2194-12-23**]
   03:45 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-29**] 04:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-22**] 08:44 PM
   Arterial Line - [**2194-12-26**] 10:15 PM
   20 Gauge - [**2194-12-28**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-30 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2194-12-29**] 02:58 PM
 ARTERIAL LINE - STOP [**2194-12-29**] 06:00 PM
 ARTERIAL LINE - START [**2194-12-29**] 06:00 PM
 MULTI LUMEN - STOP [**2194-12-29**] 06:04 PM
   - BCx positive for GPC in clusters
   - Vanco continued; dose increased for subtherapeutic trough level
   - Right IJ pulled for bacteremia; catheter tip sent for culture. Left
   IJ placed
   - Ophtho consult: Subconjunctival hemorrhage possible [**12-23**] increased
   ventilator pressure. Recommend c/w aggressive lubrication & e-mycin.
   Call for re-examination after patient is extubated or concern for
   corneal exposure
   - standing insulin and sliding scale increased for worsening
   hyperglycemia (on standing solu-medrol)
   - Gave 18 units regular insulin @ 2245 for BS 416
   - Currently on Afrin/fluticasone for sinusitis seen on CT
   - Attempted to wean to 12 yesterday but O2 sats dropped to 86-88%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2194-12-29**] 12:26 PM
   Levofloxacin - [**2194-12-29**] 10:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-30**] 04:28 AM
   Vancomycin - [**2194-12-30**] 04:29 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-12-29**] 02:32 PM
   Fentanyl - [**2194-12-29**] 02:32 PM
   Heparin Sodium (Prophylaxis) - [**2194-12-29**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 89 (71 - 99) bpm
   BP: 94/52(65) {92/49(63) - 132/69(88)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,903 mL
                                                                    660 mL
   PO:
             TF:
                                                                    721 mL
                                                                    216 mL
   IVF:
                                                                  1,182 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    560 mL
   Urine:
                                                                  2,680 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -777 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 7
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.40/54/89.[**Numeric Identifier 126**]/31/6
   Ve: 11.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : ); lungs clear but decreased
   breath sounds in bilateral bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   306 K/uL
   9.8 g/dL
   359 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.4 mEq/L
   21 mg/dL
   99 mEq/L
   137 mEq/L
   29.5 %
   11.1 K/uL
        [image002.jpg]
   Blood culture: Coag neg Staph
                             [**2194-12-28**]  02:54 AM
                             [**2194-12-28**]  09:18 PM
                             [**2194-12-29**]  01:49 AM
                             [**2194-12-29**]  01:00 PM
                             [**2194-12-29**]  05:16 PM
                             [**2194-12-29**]  06:33 PM
                             [**2194-12-29**]  10:50 PM
                             [**2194-12-30**]  12:59 AM
                             [**2194-12-30**]  03:58 AM
                             [**2194-12-30**]  04:10 AM
   WBC
   12.0
   11.1
   Hct
   31.5
   29.5
   Plt
   286
   306
   Cr
   0.7
   0.6
   0.6
   TCO2
   33
   31
   34
   33
   33
   33
   35
   Glucose
   199
   222
   342
   359
   Other labs: PT / PTT / INR:12.9/23.6/1.1, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:26/16, Alk Phos / T Bili:56/0.5, Amylase
   / Lipase:40/31, Differential-Neuts:90.0 %, Lymph:8.3 %, Mono:1.4 %,
   Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:204 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Imaging: [**12-28**] CTA (Prelim read): Bilateral pleural effusions and
   bibasilar consolidations L>R, could reflect atelectasis, superimposed
   infection can not be excluded. There is mild bilateral faint
   groundglass atenuation and peribronchovascular nodularity, particularly
   LUL, could represent an atypical infectious or inflammatory
   process. Contrast in the collecting system is likely from CTA performed
   earlier today. ([**First Name8 (NamePattern2) 13127**] [**Doctor Last Name 13128**] [**Numeric Identifier 13129**])
   Microbiology: [**12-28**] BCx:    Blood Culture, Routine (Preliminary):  GRAM
   POSITIVE COCCUS(COCCI) IN CLUSTERS.
      Aerobic Bottle Gram Stain (Final [**2194-12-29**]): GRAM POSITIVE COCCI IN
   CLUSTERS.
   Catheter tip: NGTD
   [**12-28**] BAL: 1+ PMNs, no microorganisms
   Assessment and Plan
   37F w/ hypoxic hypercarbic respiratory failure after 3-day prodrome of
   fevers and myalgias, CXRs c/w ARDS. Now with gram positive bacteremia
   # Respiratory failure: Continues to require high PEEP, with O2 sats in
   low 90s. CT revealing pleural effusions and bibasilar consolidation.
   Bronch revealing 1+ PMNs but no bacteria.
   - Will attempt to wean again today, starting with FiO2 and then PEEP
   (given body habitus, will likely require relatively high PEEP at
   baseline)
   - F/u BAL cultures/cytology
   - Treating for PNA with levaquin/zosyn/Vanc/Piperacillin
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn
   # Bacteremia: GPC in clusters, species pending. Likely explanation for
   ongoing fevers.
   - Changed CVL yesterday; follow-up tip culture results
    # Hypotension:  Likely sepsis and adrenal insufficiency, given low
   cortisol. Also ventilating better when more sedated with Fentanyl and
   Versed, which decreases the patient
s blood pressures. On steroids and
   ABx. Off pressors X 2 days but restarted on Levophed this morning.
   - TID steroids
   - Surveillance blood cultures
   - ABx as above
   - Will obtain CVP today
   - Consider esophageal balloon today to match PEEP
   - Maintain UOP>30 cc/hr, MAP>65
   - Minimize IVF boluses if possible
   - No requirement for diuresis yet
   # Facial rash: Rash across skin just above mouth, resolving
   - Hydrocortisone 1% cream ordered
   # Sinusitis: On CT
   - Afrin, nasal steroids
   # Conjunctival hemorrhage: ophtho consulted
   - Appreciate Ophthal recommendations
 will continue with lubrication,
   erythromycin. Will call them when patient extubated for re-examination
   - consider d/c
ing subcutaneous heparin if worsens
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:  Insulin gtt and Lantus with breakfast, will increase
   fixed dose today
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM, Arterial Line - [**2194-12-23**]
   03:45 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
 SINUSITIS, ACUTE
 PNEUMONIA, VIRAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-30**] 03:16 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   Arterial Line - [**2194-12-29**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-31 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2194-12-31**] 01:05 AM
 FEVER - 101.8
F - [**2194-12-30**] 11:00 AM
   - Coag neg staph bacteremia, cont vanc, zosyn, flagyl, levo
   - wean FiO2 to 40% as tolerated; then wean PEEP
   - Weaning levophed, currently on 0.1
   - CVP 12
   - Lantus increased, on ISS
   - Spontaneous awakening trial tomorrow
   - ?esophageal balloon for thorax pressure monitoring
   - FiO2%: 50--> 40; Rate:24/0; TV:380; PEEP:14; Mode:Assist/Control
   - Lost Aline overnight - unable to place new one, multiple flashes but
   unable to thread
   - put in for LENIs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2194-12-29**] 12:26 PM
   Levofloxacin - [**2194-12-29**] 10:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-12-30**] 10:00 PM
   Vancomycin - [**2194-12-31**] 12:19 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Insulin - Regular - 24 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-12-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2194-12-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.3
C (101
   HR: 74 (71 - 103) bpm
   BP: 100/41(55) {92/41(54) - 135/72(85)} mmHg
   RR: 13 (10 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 13 (12 - 13)mmHg
   Total In:
                                                                  2,327 mL
                                                                    663 mL
   PO:
   TF:
                                                                    720 mL
                                                                    209 mL
   IVF:
                                                                  1,427 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    440 mL
   Urine:
                                                                  1,620 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 380) mL
   Vt (Spontaneous): 875 (383 - 875) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 24 cmH2O
   Compliance: 49.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.42/53/94.[**Numeric Identifier 126**]/32/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Bilateral subconjunctival hemorrhage
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   337 K/uL
   9.2 g/dL
   171 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   100 mEq/L
   137 mEq/L
   28.3 %
   15.4 K/uL
        [image002.jpg]
                             [**2194-12-29**]  06:33 PM
                             [**2194-12-29**]  10:50 PM
                             [**2194-12-30**]  12:59 AM
                             [**2194-12-30**]  03:58 AM
                             [**2194-12-30**]  04:10 AM
                             [**2194-12-30**]  11:47 AM
                             [**2194-12-30**]  04:27 PM
                             [**2194-12-30**]  06:20 PM
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
   WBC
   11.1
   15.4
   Hct
   29.5
   28.3
   Plt
   306
   337
   Cr
   0.6
   0.6
   0.7
   TCO2
   33
   33
   35
   33
   29
   34
   36
   Glucose
   342
   359
   171
   Other labs: PT / PTT / INR:14.2/21.6/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:26/16, Alk Phos / T Bili:56/0.5, Amylase
   / Lipase:40/31, Differential-Neuts:90.0 %, Lymph:8.3 %, Mono:1.4 %,
   Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:204 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Imaging: [**12-30**] CXR:  As compared to the previous examination, the
   right-sided central
   venous access line has been removed. Otherwise, there is no relevant
   change.
   Mild decrease of the lung volumes. Subsequently, increase of small
   suprabasal areas of atelectasis, left more than right. Overall,
   however, the transparency of the left lung base has increased. The size
   of the cardiac
   silhouette is unchanged. There is no evidence of focal parenchymal
   opacities in the lung parenchyma that would have newly occurred. No
   evidence of pneumothorax.
   [**12-31**] LENI's: Pending
   [**12-31**] CXR: Pending
   Microbiology: [**12-30**], [**12-29**], [**12-28**], [**12-26**] BCx: Pending
   [**12-29**] Catheter tip Cx: Pending
   [**12-28**] BAL: Pending
   [**12-28**] BCx: Coag negative staph
   Assessment and Plan
   37F w/ hypoxic hypercarbic respiratory failure after 3-day prodrome of
   fevers and myalgias, CXRs c/w ARDS. Now with gram positive bacteremia
   and inability to significantly wean mechanical ventilation
   # Respiratory failure: Continues to desat when PEEP turned down. Has
   known pleural effusions and bibasilar consolidation, but has been on
   broad spectrum antibiotics for several days. Bronch revealing 1+ PMNs
   but no bacteria. Given high PEEP and large/short neck, patient not an
   excellent candidate for tracheostomy
   - Continue attempting to wean from vent, starting with FiO2 and then
   PEEP
   - Consider pulling back antibiotics for PNA, given lack of resolution
   with levaquin/zosyn/Vanc
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn
   - Consider thoracentesis to analyze pleural fluid
   - Consider esophageal balloon
   # Fevers/leukocytosis: Temperature and WBC both up today. Has been on
   levaquin x 9 days, vanco/zosyn x 3 days. Leukocytosis worsening even
   several days after starting steroids for adrenal insufficiency
   - D/c levaquin as has not provided any clinical benefit
   - ID consult for ?source of fevers
   - LENI
s for DVT as source
   - consider thoracentesis, as above
   # Bacteremia: Known coag negative staph in blood. Other cultures
   (including CVL tip) negative or pending to date
   - F/u outstanding culture results
   - Coag neg staph by itself should not require vanco
   - ID consult as above
    # Hypotension: Bacteremia and adrenal insufficiency documented as
   etiologies. BP more stable over past 24 hours. On small dose of
   levophed at this time
   - Can taper doses of levo, steroids
   - Surveillance blood cultures
   - Maintain UOP>30 cc/hr, MAP>65
   - Minimize IVF boluses if possible
   - No requirement for diuresis yet
   # Facial rash: Rash across skin just above mouth, resolving
   - Hydrocortisone 1% cream ordered
   # Sinusitis: On CT
   - Afrin, nasal steroids
   - Obtain culture of nasal drainage, if possible
   # Conjunctival hemorrhage: ophtho consulted; they believe may be [**12-23**]
   high vent pressure
   - Appreciate Ophthal recommendations
 will continue with lubrication,
   erythromycin. Will call them when patient extubated for re-examination
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:  Insulin gtt and Lantus with breakfast, will increase
   fixed dose today
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-31**] 02:35 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient
s A1c noted to be > 7%. For diabetes, patient is currently on
   long-acting insulin as well as insulin gtt.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1998**] [**Last Name (NamePattern1) 13148**], MD
   on:[**2194-12-31**] 15:53 ------

2195-01-01 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2194-12-31**] 12:09 PM: Negative bilaterally
 BRONCHOSCOPY - At [**2194-12-31**] 01:24 PM: BAL gram stain neg, culture
   pending
 FEVER - 101.5
F - [**2194-12-31**] 11:00 AM: Nasal sample NGTD, blood cx
   X10 NGTD, UCxNGTD
   [**12-23**] 1/2 bottles coag neg staph
   IJ tip culture negative
   Got benadryl for [**Doctor Last Name **] neck/arms rash
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2194-12-29**] 12:26 PM
   Levofloxacin - [**2194-12-29**] 10:09 PM
   Vancomycin - [**2195-1-1**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-1**] 03:58 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Insulin - Regular - 15 units/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2194-12-31**] 01:15 PM
   Midazolam (Versed) - [**2194-12-31**] 01:17 PM
   Heparin Sodium (Prophylaxis) - [**2194-12-31**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-1**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.7
   HR: 59 (57 - 98) bpm
   BP: 100/43(56) {91/40(51) - 155/144(147)} mmHg
   RR: 11 (10 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
    CVP: 11 (9 - 281)mmHg
   Total In:
                                                                  2,350 mL
                                                                  1,040 mL
   PO:
   TF:
                                                                    962 mL
                                                                    359 mL
   IVF:
                                                                  1,347 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    750 mL
   Urine:
                                                                  1,450 mL
                                                                    750 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                    820 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 783 (691 - 840) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.45/49/108/33/8
   Ve: 13.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   376 K/uL
   9.8 g/dL
   115 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.8 mEq/L
   32 mg/dL
   98 mEq/L
   136 mEq/L
   30.6 %
   17.1 K/uL
        [image002.jpg]
                             [**2194-12-30**]  12:59 AM
                             [**2194-12-30**]  03:58 AM
                             [**2194-12-30**]  04:10 AM
                             [**2194-12-30**]  11:47 AM
                             [**2194-12-30**]  04:27 PM
                             [**2194-12-30**]  06:20 PM
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
                             [**2195-1-1**]  03:37 AM
                             [**2195-1-1**]  04:20 AM
   WBC
   11.1
   15.4
   17.1
   Hct
   29.5
   28.3
   30.6
   Plt
   [**Telephone/Fax (3) 13210**]
   Cr
   0.6
   0.6
   0.7
   0.8
   TCO2
   35
   33
   29
   34
   36
   35
   Glucose
   342
   359
   171
   115
   Other labs: PT / PTT / INR:14.2/22.8/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:28/16, Alk Phos / T Bili:41/0.3, Amylase
   / Lipase:40/243, Differential-Neuts:90.0 %, Lymph:8.3 %, Mono:1.4 %,
   Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:204 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   37F w/ hypoxic hypercarbic respiratory failure after 3-day prodrome of
   fevers and myalgias, CXRs c/w ARDS. Now with gram positive bacteremia
   and inability to significantly wean mechanical ventilation
   # Respiratory failure: Continues to desat when PEEP turned down. Has
   known pleural effusions and bibasilar consolidation, but has been on
   broad spectrum antibiotics for several days. Bronch revealing 1+ PMNs
   but no bacteria. Given high PEEP and large/short neck, patient not an
   excellent candidate for tracheostomy
   - Continue attempting to wean from vent, starting with FiO2 and then
   PEEP
   - Consider pulling back antibiotics for PNA, given lack of resolution
   with levaquin/zosyn/Vanc
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn
   - Consider thoracentesis to analyze pleural fluid
   - Consider esophageal balloon
   # Fevers/leukocytosis: Temperature and WBC both up today. Has been on
   levaquin x 9 days, vanco/zosyn x 3 days. Leukocytosis worsening even
   several days after starting steroids for adrenal insufficiency
   - D/c levaquin as has not provided any clinical benefit
   - ID consult for ?source of fevers
   - LENI
s for DVT as source
   - consider thoracentesis, as above
   # Bacteremia: Known coag negative staph in blood. Other cultures
   (including CVL tip) negative or pending to date
   - F/u outstanding culture results
   - Coag neg staph by itself should not require vanco
   - ID consult as above
    # Hypotension: Bacteremia and adrenal insufficiency documented as
   etiologies. BP more stable over past 24 hours. On small dose of
   levophed at this time
   - Can taper doses of levo, steroids
   - Surveillance blood cultures
   - Maintain UOP>30 cc/hr, MAP>65
   - Minimize IVF boluses if possible
   - No requirement for diuresis yet
   # Facial rash: Rash across skin just above mouth, resolving
   - Hydrocortisone 1% cream ordered
   # Sinusitis: On CT
   - Afrin, nasal steroids
   - Obtain culture of nasal drainage, if possible
   # Conjunctival hemorrhage: ophtho consulted; they believe may be [**12-23**]
   high vent pressure
   - Appreciate Ophthal recommendations
 will continue with lubrication,
   erythromycin. Will call them when patient extubated for re-examination
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:  Insulin gtt and Lantus with breakfast, will increase
   fixed dose today
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-31**] 02:35 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 DIABETES MELLITUS (DM), TYPE II
 RASH
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conjunctival/Scleral hemorrhage and edema
 SINUSITIS, ACUTE
 PNEUMONIA, VIRAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 BACTEREMIA
   Coag negative Staph
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   am cortisol was 3
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-12-31**] 08:14 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-02 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Per ID recs, ordered repeat CDiff and nasopharyngeal DFA/rapid viral
   (added on to yesterday
s sample but wrong media)
   - CT torso with prep (bicarb/mucomyst)
   - Needs A line placed
   - BAL pending from this morning
   - Switched to Decadron 2mg [**Hospital1 7**] (physiologic dosing) for [**Last Name (un) 402**] stim test
   - Called ID fellow o/c for alternatives to zosyn, did not recommend any
   options
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-2**] 12:17 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-2**] 04:07 AM
   Infusions:
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-1-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2195-1-1**] 10:00 PM
   Fentanyl - [**2195-1-2**] 01:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-2**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 58 (52 - 80) bpm
   BP: 99/57(67) {89/44(55) - 121/64(77)} mmHg
   RR: 12 (11 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
             Total In:
                                                                  4,873 mL
                                                                    583 mL
   PO:
             TF:
                                                                    512 mL
   IVF:
                                                                  2,551 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,090 mL
   Urine:
                                                                  2,660 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,213 mL
                                                                   -507 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 838 (838 - 838) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.47/46/91.[**Numeric Identifier 143**]/34/8
   Ve: 8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Initially intubated but interactive
 extubated and comfortable,
   tearful at times, though
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   9.6 g/dL
   105 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.6 mEq/L
   24 mg/dL
   93 mEq/L
   131 mEq/L
   28.5 %
   11.7 K/uL
        [image002.jpg]
   CT torso: Findings concerning for persistent bibasal pneumonia, small
   amount of free fluid in tgyhe pelvis, a non-specific finding
                             [**2194-12-30**]  04:27 PM
                             [**2194-12-30**]  06:20 PM
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
                             [**2195-1-1**]  03:37 AM
                             [**2195-1-1**]  04:20 AM
                             [**2195-1-1**]  02:39 PM
                             [**2195-1-1**]  04:00 PM
                             [**2195-1-2**]  04:00 AM
                             [**2195-1-2**]  05:59 AM
   WBC
   15.4
   17.1
   11.7
   Hct
   28.3
   30.6
   28.5
   Plt
   [**Telephone/Fax (3) 13255**]
   Cr
   0.7
   0.8
   0.6
   TCO2
   29
   34
   36
   35
   34
   34
   34
   Glucose
   171
   115
   105
   Other labs: PT / PTT / INR:13.8/25.1/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:28/16, Alk Phos / T Bili:41/0.3, Amylase
   / Lipase:40/243, Differential-Neuts:89.4 %, Lymph:7.0 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:204 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   37F w/ hypoxic hypercarbic respiratory failure after 3-day prodrome of
   fevers and myalgias, CXRs c/w ARDS. Now with gram positive bacteremia
   and inability to significantly wean mechanical ventilation
   # Respiratory failure: Extubated this morning without issues. Has known
   pleural effusions and bibasilar consolidation, but has been on broad
   spectrum antibiotics for several days (Vanc/Zosyn). Bronch revealing 1+
   PMNs but no bacteria. Given high PEEP and large/short neck, patient not
   an excellent candidate for tracheostomy
   - Discontinue Vanc but continue Zosyn although there is suspicion for
   drug fever and no compelling PNA/bacteremia found
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn; incentive spirometer at bedside
   - Lasix diuresis (mild given blood pressures) today at 20mg IV
   # Fevers/leukocytosis: Temperature continues to be low grade, WBC
   significantly improved. Had been on levaquin x 9 days (discontinued),
   vanco/zosyn x 5 days. LENI negative bilaterally for DVT
   - Appreciate ID consult: ordered Cdiff, hold on repeat nasapharyngeal
   swab sampling
   - CT torso final read not suggestive of infectious processes (except
   for bibasilar pneumonia, but no localizing symptoms)
    # Hypotension: Bacteremia and adrenal insufficiency documented as
   etiologies. BP more stable over past 24 hours. Levophed weaned off
   yesterday with MAPs acceptable ~55
   - Will continue decadron (physiologic repletion dose) 2mg twice daily
   for now
   - Maintain UOP>30 cc/hr, MAP>55
   - Minimize IVF boluses if possible, given +12-13L length of stay
   # Elevated Lipase: Holding tube feeds today in setting of lipase
   - Will recheck AM lipase and consider resuming tube feeds tomorrow (or
   Speech and Swallow evaluation for reinitiation of diet)
   # Facial/upper torso rash: Rash across skin just above mouth,
   resolving; [**Doctor Last Name **]/ hive-like rash on neck and bilateral arms
   - Hydrocortisone 1% cream ordered
   - Benadryl PRN
   # Sinusitis: On CT
   - Afrin, nasal steroids
   - On Zosyn
 will discuss with ID appropriateness for sinusitis
   coverage, and course
   # Conjunctival hemorrhage: ophtho consulted; they believe may be [**12-23**]
   high vent pressure
   - Appreciate Ophthal recommendations
 will continue with lubrication,
   erythromycin. Patient may benefit from outpatient follow-up.
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:  Insulin gtt and Lantus with breakfast, will increase
   fixed dose today
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
 DIABETES MELLITUS (DM), TYPE II
 RASH
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conjunctival/Scleral hemorrhage and edema
 SINUSITIS, ACUTE
 PNEUMONIA, VIRAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 BACTEREMIA
   Coag negative Staph
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   am cortisol was 3
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   20 Gauge - [**2195-1-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-03 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-1-2**] 08:48 AM
   [**1-2**]:
   - Extubated w/o issues
   - Got benadryl for hives on neck/bilateral arms
   - Optho says outpatient follow-up PRN for conjunctival hemorr - cont
   erythromycin ointment
   - Has OSA and CPAP at home (doesn't use [**12-23**] broken mask). Desat 88%
   while sleeping so started on CPAP
   - Lasix 20mg IV w/ some good effect
   - Insulin gtt d/c and sliding scale resumed as pt not on TF today for
   elev lipase yest (recheck 243 --> 82)
   - Per ID: discontinued Zosyn also. Recing d/c foley and HIV consent
   - PT ordered for d/c planning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-2**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-2**] 11:52 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2195-1-2**] 08:15 AM
   Pantoprazole (Protonix) - [**2195-1-2**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2195-1-2**] 04:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 63 (59 - 72) bpm
   BP: 101/44(58) {90/35(50) - 130/82(94)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,168 mL
                  PO:
                  TF:
   IVF:
                                                                    988 mL
   Blood products:
   Total out:
                                                                  6,230 mL
                                                                  1,350 mL
   Urine:
                                                                  6,230 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,062 mL
                                                                 -1,350 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 768 (768 - 768) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///30/
   Ve: 10.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   349 K/uL
   11.2 g/dL
   162 mg/dL
   0.7 mg/dL
   30 mEq/L
   5.2 mEq/L
   22 mg/dL
   97 mEq/L
   136 mEq/L
   33.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2194-12-30**]  06:20 PM
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
                             [**2195-1-1**]  03:37 AM
                             [**2195-1-1**]  04:20 AM
                             [**2195-1-1**]  02:39 PM
                             [**2195-1-1**]  04:00 PM
                             [**2195-1-2**]  04:00 AM
                             [**2195-1-2**]  05:59 AM
                             [**2195-1-3**]  03:41 AM
   WBC
   15.4
   17.1
   11.7
   14.0
   Hct
   28.3
   30.6
   28.5
   33.3
   Plt
   [**Telephone/Fax (3) 13290**]49
   Cr
   0.7
   0.8
   0.6
   0.7
   TCO2
   34
   36
   35
   34
   34
   34
   Glucose
   171
   115
   105
   162
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:28/16, Alk Phos / T Bili:41/0.3, Amylase
   / Lipase:40/82, Differential-Neuts:89.4 %, Lymph:7.0 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:204 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 RASH
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conjunctival/Scleral hemorrhage and edema
 SINUSITIS, ACUTE
 PNEUMONIA, VIRAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 BACTEREMIA
   Coag negative Staph
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   am cortisol was 3
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Assessment and Plan
   37F w/ hypoxic hypercarbic respiratory failure after 3-day prodrome of
   fevers and myalgias, CXRs c/w ARDS. Now with gram positive bacteremia
   and inability to significantly wean mechanical ventilation
   # Respiratory failure: Extubated this morning without issues. Has known
   pleural effusions and bibasilar consolidation, but has been on broad
   spectrum antibiotics for several days (Vanc/Zosyn). Bronch revealing 1+
   PMNs but no bacteria. Given high PEEP and large/short neck, patient not
   an excellent candidate for tracheostomy
   - Discontinue Vanc but continue Zosyn although there is suspicion for
   drug fever and no compelling PNA/bacteremia found
   - Follow up blood, sputum, urine cultures
   - Alb/Atrovent nebs prn; incentive spirometer at bedside
   - Lasix diuresis (mild given blood pressures) today at 20mg IV
   # Fevers/leukocytosis: Temperature continues to be low grade, WBC
   significantly improved. Had been on levaquin x 9 days (discontinued),
   vanco/zosyn x 5 days. LENI negative bilaterally for DVT
   - Appreciate ID consult: ordered Cdiff, hold on repeat nasapharyngeal
   swab sampling
   - CT torso final read not suggestive of infectious processes (except
   for bibasilar pneumonia, but no localizing symptoms)
    # Hypotension: Bacteremia and adrenal insufficiency documented as
   etiologies. BP more stable over past 24 hours. Levophed weaned off
   yesterday with MAPs acceptable ~55
   - Will continue decadron (physiologic repletion dose) 2mg twice daily
   for now
   - Maintain UOP>30 cc/hr, MAP>55
   - Minimize IVF boluses if possible, given +12-13L length of stay
   # Elevated Lipase: Holding tube feeds today in setting of lipase
   - Will recheck AM lipase and consider resuming tube feeds tomorrow (or
   Speech and Swallow evaluation for reinitiation of diet)
   # Facial/upper torso rash: Rash across skin just above mouth,
   resolving; [**Doctor Last Name **]/ hive-like rash on neck and bilateral arms
   - Hydrocortisone 1% cream ordered
   - Benadryl PRN
   # Sinusitis: On CT
   - Afrin, nasal steroids
   - On Zosyn
 will discuss with ID appropriateness for sinusitis
   coverage, and course
   # Conjunctival hemorrhage: ophtho consulted; they believe may be [**12-23**]
   high vent pressure
   - Appreciate Ophthal recommendations
 will continue with lubrication,
   erythromycin. Patient may benefit from outpatient follow-up.
   Nutrition: Tube Feeds: Replete with Fiber (Full) - [**2194-12-25**] 01:39 AM
   60 mL/hour
   Glycemic Control:  Insulin gtt and Lantus with breakfast, will increase
   fixed dose today
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
 DIABETES MELLITUS (DM), TYPE II
 RASH
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Conjunctival/Scleral hemorrhage and edema
 SINUSITIS, ACUTE
 PNEUMONIA, VIRAL
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 BACTEREMIA
   Coag negative Staph
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
   am cortisol was 3
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   20 Gauge - [**2195-1-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-03 12:33:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-1-2**] 08:48 AM
 Pt notes increase in baseline diplopia
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-2**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-2**] 11:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-1-2**] 04:41 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-3**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 62 (57 - 75) bpm
   BP: 98/48(60) {90/35(50) - 130/72(86)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,168 mL
                  PO:
                  TF:
   IVF:
                                                                    988 mL
   Blood products:
   Total out:
                                                                  6,230 mL
                                                                  2,120 mL
   Urine:
                                                                  6,230 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,062 mL
                                                                 -2,120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   349 K/uL
   162 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.8 mEq/L
   22 mg/dL
   97 mEq/L
   136 mEq/L
   33.3 %
   14.0 K/uL
        [image002.jpg]
                             [**2194-12-30**]  06:20 PM
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
                             [**2195-1-1**]  03:37 AM
                             [**2195-1-1**]  04:20 AM
                             [**2195-1-1**]  02:39 PM
                             [**2195-1-1**]  04:00 PM
                             [**2195-1-2**]  04:00 AM
                             [**2195-1-2**]  05:59 AM
                             [**2195-1-3**]  03:41 AM
   WBC
   15.4
   17.1
   11.7
   14.0
   Hct
   28.3
   30.6
   28.5
   33.3
   Plt
   [**Telephone/Fax (3) 13290**]49
   Cr
   0.7
   0.8
   0.6
   0.7
   TCO2
   34
   36
   35
   34
   34
   34
   Glucose
   171
   115
   105
   162
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:28/16, Alk Phos / T Bili:41/0.3, Amylase
   / Lipase:40/82, Differential-Neuts:89.4 %, Lymph:7.0 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:204 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   37F recovering from ARDS - extubated yesterday
   # Respiratory failure:
   -Extubated yesterday
   -100% on 3LNC - wean to room air
   # Fevers/leukocytosis:
   -Afeb
   -WBC remains slightly elevated
    # Hypotension:
   -resolved
   - taper decadron
   # Facial/upper torso rash:
   - likely drug rash
   - off abx
   # Sinusitis:
   - Afrin, nasal steroids
   # Conjunctival hemorrhage:
   -ophtho following
   -baseline diplopia worse per pt ? if related to swelling - touch base
   with ophtho
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   20 Gauge - [**2195-1-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2195-01-04 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2195-1-3**] 08:57 AM
   - doing well on nasal cannula
   - changed alb/atrovent IH to prn
   - re-consulted ophtho for diplopia (has at baseline, but worse now):
   they say will continue to resolve
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-2**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-2**] 11:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-1-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2195-1-3**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-4**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 62 (56 - 75) bpm
   BP: 117/70(82) {98/46(59) - 131/86(94)} mmHg
   RR: 23 (10 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
                  Total In:
                                                                     10 mL
                  PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  1,240 mL
   Urine:
                                                                  5,520 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,510 mL
                                                                 -1,240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Bilateral conjunctival hemorrhage/edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   401 K/uL
   11.8 g/dL
   154 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.9 mEq/L
   21 mg/dL
   95 mEq/L
   132 mEq/L
   35.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
                             [**2195-1-1**]  03:37 AM
                             [**2195-1-1**]  04:20 AM
                             [**2195-1-1**]  02:39 PM
                             [**2195-1-1**]  04:00 PM
                             [**2195-1-2**]  04:00 AM
                             [**2195-1-2**]  05:59 AM
                             [**2195-1-3**]  03:41 AM
                             [**2195-1-4**]  04:09 AM
   WBC
   15.4
   17.1
   11.7
   14.0
   12.1
   Hct
   28.3
   30.6
   28.5
   33.3
   35.8
   Plt
   [**Telephone/Fax (3) 13290**]49
   401
   Cr
   0.7
   0.8
   0.6
   0.7
   0.6
   TCO2
   36
   35
   34
   34
   34
   Glucose
   171
   115
   105
   162
   154
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:28/16, Alk Phos / T Bili:41/0.3, Amylase
   / Lipase:40/82, Differential-Neuts:89.4 %, Lymph:7.0 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:204 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Imaging: [**1-3**] CXR: Interval removal of endotracheal tube. There is a
   left-sided internal jugular
   venous catheter with tip projecting at the junction of the
   brachiocephalic
   vein and SVC. Cardiac silhouette is within normal limits. No focal
   airspace
   consolidation is seen. There is mild interval increase in lung volumes
   compared to the prior examination. Taking this into account, there is
   increased interstitial opacities and vascular distention bilaterally,
   in
   keeping with mild interstitial pulmonary edema. Focal airspace
   consolidation.
   No pneumothorax.
   Microbiology: [**12-31**] Nasal swab: RESPIRATORY CULTURE (Final [**2195-1-2**]):
   HEAVY GROWTH Commensal Respiratory Flora.
   [**12-31**], [**12-30**] BCx: Pending
   [**12-29**] BCx: No growth
   [**12-31**] UCx: 10K-100K org's Yeast
   [**12-31**] BAL: 10L-100L org's Yeast
   [**12-28**] BCx: +Coag negative Staph
   Assessment and Plan
   37F w/ extubated s/p hypoxic hypercarbic respiratory failure c/w viral
   ARDS, also had G+ bacteremia c/w line infection
   # Respiratory status: Extubated without issues. Off abx. Sat 100% on
   NC.
   - Alb/Atrovent nebs prn
   - incentive spirometer at bedside
   # Hyperkalemia: K+ of 5.2. Repeat K+ normal, no EKG changes.
   # Adrenal Insufficiency: She has been on steroids for a cortisol level
   of 3 last week in the setting of respiratory failure.
   - Will wean decadron (physiologic repletion dose) from 2mg [**Hospital1 7**] to 1.5
   mg [**Hospital1 7**]
   - Maintain UOP>30 cc/hr, MAP>55
   # Facial/upper torso rash: Rash across skin just above mouth,
   resolving; [**Doctor Last Name **]/ hive-like rash on neck and bilateral arms
   - Hydrocortisone 1% cream ordered
   - Benadryl PRN
   # Conjunctival hemorrhage: ophtho consulted; they believe may be [**12-23**]
   high vent pressure
   - Ophtho states her diplopia should return to her b/l diplopia as edema
   continues to resolve.
   # Bacteremia: Coag negative staph
   # Diabetes Mellitus, Type 2
   # Sinusitis: On CT.
   - Continue nasal steroids
   Nutrition: Clears for now, given she coughed a bit after getting her PO
   Colace.
   Glycemic Control:  Insulin gtt and Lantus with breakfast
   Lines: Multi Lumen - [**2194-12-22**] 08:44 PM
   Prophylaxis DVT: Heparin
   Stress ulcer:  PPI
   VAP:  Elevate HOB
   Bowel regimen: Colace, Senna, Bisacodyl
   Comments: On special bed for rolling patient
   Communication:
   Code status: Full
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-04 11:15:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2195-1-3**] 08:57 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-2**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-2**] 11:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-1-3**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-4**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**96**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 61 (55 - 69) bpm
   BP: 114/64(76) {99/46(59) - 131/86(94)} mmHg
   RR: 26 (10 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 165 kg (admission): 152.9 kg
   Height: 67 Inch
                  Total In:
                                                                     10 mL
                  PO:
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  1,860 mL
   Urine:
                                                                  5,520 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,510 mL
                                                                 -1,860 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   401 K/uL
   154 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.9 mEq/L
   21 mg/dL
   95 mEq/L
   132 mEq/L
   35.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2194-12-31**]  03:16 AM
                             [**2194-12-31**]  03:36 AM
                             [**2195-1-1**]  03:37 AM
                             [**2195-1-1**]  04:20 AM
                             [**2195-1-1**]  02:39 PM
                             [**2195-1-1**]  04:00 PM
                             [**2195-1-2**]  04:00 AM
                             [**2195-1-2**]  05:59 AM
                             [**2195-1-3**]  03:41 AM
                             [**2195-1-4**]  04:09 AM
   WBC
   15.4
   17.1
   11.7
   14.0
   12.1
   Hct
   28.3
   30.6
   28.5
   33.3
   35.8
   Plt
   [**Telephone/Fax (3) 13290**]49
   401
   Cr
   0.7
   0.8
   0.6
   0.7
   0.6
   TCO2
   36
   35
   34
   34
   34
   Glucose
   171
   115
   105
   162
   154
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:50//0.05, ALT / AST:28/16, Alk Phos / T Bili:41/0.3, Amylase
   / Lipase:40/82, Differential-Neuts:89.4 %, Lymph:7.0 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:204 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   37F recovering from ARDS - extubated yesterday
   # Respiratory failure:
   -Extubated, doing well
   # Fevers/leukocytosis:
   -Afeb
   -WBC remains slightly elevated
    # Hypotension:
   -resolved
   - taper decadron
   # Facial/upper torso rash:
   - likely drug rash - improving
   - off abx
   # Sinusitis:
   - Afrin
   - nasal steroids
   # Conjunctival hemorrhage:
   -ophtho following
   -baseline diplopia worse per pt likely related to swelling - touch base
   with ophtho
   #DM2
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-29**] 02:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: